US07569578B2
(±)-4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid
To a flask containing 4-(7-Methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid tert-butyl ester (10 mg, 0.028 mmol) was added hydrogen chloride in dioxane (4 M, 0.8 mL). The suspension was stirred at room temperature overnight (LCMS indicated 2/3 conversion after 2 h). The reaction mixture was concentrated in vacuo to dryness. Dioxane (1 mL) was added and the mixture again concentrated to dryness. The residue was carried on without further characterization. MS (ESI) 296 (MH)+.

reactant | 4-(7-Methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid tert-butyl ester | 0.028 mmol, 10 mg | C(C)(C)(C)OC(CC(CC=1C=C2C=NNC2=C(C1)C)C1=NC=CC=C1)=O | C21H25N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4 M, 0.8 mL | O1CCOCC1 | C4H8O2
product | (±)-4-(7-methyl-1H-indazol-5-yl)-3-pyridin-2-yl-butyric acid | CC=1C=C(C=C2C=NNC12)CC(CC(=O)O)C1=NC=CC=C1 | C17H17N3O2
